US06998502B1
Methyl 2,3-di(2-nitrophenyl)perhydropyrrolo (1,2-a)imidazole-7a carboxylate
In a 250 ml round-bottomed flask equipped with a magnetic stirrer were taken a mixture of ornithine methyl ester dihydrochloride (5.0 g) and 2-nitrobenzaldehyde (7.5 g) in MDC (70 ml). The suspension was stirred at 0° C. for 15 mts. Triethylamine (4.64 g in 10 ml MDC) was added slowly. The reaction mixture was then allowed to stir at RT overnight. The reaction mixture was diluted with MDC, washed with water twice and dried over sodium sulfate. MDC was evaporated to give the crude product which was crystallized from methanol to give a white crystalline solid.

reactant | ornithine methyl ester dihydrochloride | 5.0 g | Cl.Cl.COC([C@@H](N)CCCN)=O
reactant | 2-nitrobenzaldehyde | 7.5 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
solvent | Triethylamine | 10 ml, 4.64 g | C(C)N(CC)CC | C6H15N
product | Methyl 2,3-di(2-nitrophenyl)perhydropyrrolo (1,2-a)imidazole-7a carboxylate | [N+](=O)([O-])C1=C(C=CC=C1)C1NC2(N(C1C1=C(C=CC=C1)[N+](=O)[O-])CCC2)C(=O)OC | C20H20N4O6
